US08044067B2
3,4,5-Trimethoxymandelic acid (80.5 g) was treated with acetyl chloride (150 ml) at room temperature for three hours. The clear solution was concentrated to dryness under vacuum, and the oily residue was crystallized from toluene (280 ml) giving pure α-acetoxy-3,4,5-trimethoxyphenylacetic acid (80.9 g), m.p. 135-139° C.

reactant | 3,4,5-Trimethoxymandelic acid | 80.5 g | COC=1C=C(C(C(=O)O)O)C=C(C1OC)OC | C11H14O6
reactant | acetyl chloride | 150 ml | C(C)(=O)Cl | C2H3ClO
product | α-acetoxy-3,4,5-trimethoxyphenylacetic acid | 80.9 g | C(C)(=O)OC(C(=O)O)C1=CC(=C(C(=C1)OC)OC)OC | C13H16O7
